US03957833
By utilizing the procedure of Example 8, by reacting p-[(3,6,7-trimethyloctyl)oxy]benzoic acid with propargyl bromide, there is obtained p-[(3,6,7-trimethyloctyl)oxy]benzoic acid propargyl ester; B.P. 153°-154°C/0.05 mmHg.

reactant | p-[(3,6,7-trimethyloctyl)oxy]benzoic acid | CC(CCOC1=CC=C(C(=O)O)C=C1)CCC(C(C)C)C | C18H28O3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | p-[(3,6,7-trimethyloctyl)oxy]benzoic acid propargyl ester | C(C#C)OC(C1=CC=C(C=C1)OCCC(CCC(C(C)C)C)C)=O | C21H30O3
